US04882330
1-Phenoxy-4-[4-(4-cyanophenyl)-1-piperazinyl]-2-butanol
Following the procedure of Example 25, the title compound is prepared from 4-chloro-1-phenoxy-2-butanol and 4-(1-piperazinyl)benzonitrile.

reactant | 4-chloro-1-phenoxy-2-butanol | ClCCC(COC1=CC=CC=C1)O | C10H13ClO2
reactant | 4-(1-piperazinyl)benzonitrile | N1(CCNCC1)C1=CC=C(C#N)C=C1 | C11H13N3
product | 1-Phenoxy-4-[4-(4-cyanophenyl)-1-piperazinyl]-2-butanol | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC=C(C=C1)C#N)O | C21H25N3O2
